US04454120
A solution of N2 -(tert-butyloxycarbonyl)-N2 -methyl-N-(3-phenylpropyl)-D-methioninamide (3.3 g.) in hydrogen chloride-ethyl acetate (3.4 N, 18 ml.) was stirred for one half hour at room temperature, then stripped of volatiles, affording N2 -methyl-N-(3-phenylpropyl)-D-methioninamide hydrochloride as a crystalline solid (2.5 g., m.r. 107°-110° C.).

reactant | N2 (tert-butyloxycarbonyl)-N2 -methyl-N-(3-phenylpropyl)-D-methioninamide | 3.3 g | N#N.C(C)(C)(C)OC(=O)N([C@H](CCSC)C(=O)NCCCC1=CC=CC=C1)C
reactant | hydrogen chloride-ethyl acetate | 3.4 N, 18 ml | C(C)(=O)OCC.Cl
product | N2 methyl-N-(3-phenylpropyl)-D-methioninamide hydrochloride | N#N.Cl.CN[C@H](CCSC)C(=O)NCCCC1=CC=CC=C1 | InChI=1S/C15H24N2OS.ClH.N2/c1-16-14(10-12-19-2)15(18)17-11-6-9-13-7-4-3-5-8-13;;1-2/h3-5,7-8,14,16H,6,9-12H2,1-2H3,(H,17,18);1H;/t14-;;/m1../s1
